Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
jaundice
 
Major Surgical or Invasive Procedure:
ERCP ___: needle knive - sphx - CBD stent - brushings - EUS 
FNB

 
History of Present Illness:
___ y.o male with h.o HTN, DM2 who was transferred
from OSH with imaging concerning for a pancreatic mass. Pt
reports that 1 week ago he developed a few episodes of GERD
leading to decreased PO intake and potentially a 10lb weight
loss. He went to ___ dinner ___ and family members told 
him
he looked yellow and needed to get checked out. He also reported
darkening of his urine. Pt denies any pain, fevers, chills, CP,
sob, cough, n/v/d/c/melena/brbpr or dysuria. He then presented 
to
his PCP ___ and ___ labs, u/s and MRI ordered. Given results
of MRI concerning for pancreatic mass, he was sent to ___ and then transferred to ___ for consideration of
ERCP.

Of note, pt is s/p CCY for an episode of gallstone pancreatitis
___ ago.  

 
Past Medical History:
PMH:
HTN
DM2
h.o gallstone pancreatitis ___ yrs ago with CCY

Soc hx: Denies smoking, reports drinking ___ a week,
denies drug use 

Fam hx:
father with oat cell carcinoma of the lung, mother with CHF,
valve disease, dementia 

 
Physical Exam:
Exam
gen-well appearing, NAD, sitting upright in bed
vitals-reviewed in POE eflowsheeet
HEENT-ncat EOMI +icterus MMM
neck-supple
respiratory-b/l ae no w/c/r
cardiac-s1s2 RR no m/r/g
gastrointestinal-+bs, soft, NT, ND, no guarding or rebound
ext-no c/c/e 2+pulses
neuro- face symmetric, speech fluent, moves all extremities 
psych-calm, cooperative 
skin-with jaundice 
 
Pertinent Results:
___ 06:14AM BLOOD WBC-5.9 RBC-3.58* Hgb-10.6* Hct-31.7* 
MCV-89 MCH-29.6 MCHC-33.4 RDW-13.5 RDWSD-43.9 Plt ___
___ 05:50AM BLOOD Glucose-171* UreaN-12 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-22 AnGap-16
___ 09:17PM BLOOD ALT-240* AST-72* AlkPhos-290* 
TotBili-11.6*
** After Stent Placement
___ 05:50AM BLOOD ALT-140* AST-43* AlkPhos-253* 
TotBili-13.6*
___ 06:08AM BLOOD ALT-112* AST-35 AlkPhos-257* 
TotBili-10.6*
 
Brief Hospital Course:
# Pancreatic Head Mass : S/p EUS and ERCP ___. Stent placed - 
Bilirubin downtrended to 10.6 from 14 peak during 
hospitalization. AST/ALT also downtrending, 112/35 respectfully 
on discharge. Alk phos still elevated at 257 at time of 
discharged 
# Jaundice ___ biliary obstruction,

- Cholangiogram done with stricture about 2cm long. 

- Had stent placed during hospitalization without issue. 
Advanced diet from clears to full by time of discharge without 
pain. NO fevers, no chills. Discussed with ERCP and is OK to 
discharge at this time. 

CEA 2.5
CA ___ pending at time of discharge. 

# Diabetes - on SSI during hospitalization. OK to d/c on home 
metformin
# HTN - Continue home Lisinopril 5mg daily. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 250 mg PO DAILY 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN itch  
2.  Lisinopril 5 mg PO DAILY  
3.  MetFORMIN (Glucophage) 250 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
jaundice
biliary obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were hospitalized with jaundice and biliary obstruction. You 
had a procedure called an ERCP and a stent was placed in your 
bile duct to allow drainage. We are unsure of what type of mass 
is causing this obstruction at this time, but we have taken 
samples of the area and hope to hear back from pathology soon. 
You should hear back from Gastroenterology/ERCP about the 
pathology found and will be updated/scheduled for the 
appropriate followup. 

Please return to the hospital if you have 
fever/chills/lightheadedness in the next ___ hours. 

Thanks for allowing us to take care of you!
Sincerely, The Hospitalist Team
 
Followup Instructions:
___